US07507740B2
Production of [2-phenoxy-5-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)phenyl]methanol
To a solution of 2-phenoxy-5-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzoic acid (173 mg) in N,N-dimethylformamide (5 mL) was added 1,1′-carbonyldiimidazole (97 mg) and the mixture was stirred at room temperature for 1 hr. Sodium borohydride (38 mg) was added to the reaction mixture at room temperature, and methanol (1 mL) was added dropwise. After stirring overnight at room temperature, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent, methanol:ethyl acetate=0:100→20:80) and crystallized from methanol-ethyl acetate, to give the title compound (44 mg) as a colorless powder.

reactant | 2-phenoxy-5-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzoic acid | 173 mg | O(C1=CC=CC=C1)C1=C(C(=O)O)C=C(C=C1)NC=1C2=C(N=CN1)C=CN2 | C19H14N4O3
reactant | 1,1′-carbonyldiimidazole | 97 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Sodium borohydride | 38 mg | [BH4-].[Na+]
reactant | methanol | 1 mL | CO | CH4O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [2-phenoxy-5-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)phenyl]methanol | 44 mg | O(C1=CC=CC=C1)C1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=CN2)CO | C19H16N4O2
